US07915443B2
(S)-2-amino-5-[(3-hydroxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
To a degassed solution containing (S)-2-amino-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (106 mg, 0.3 mmol) and 3-hydroxyphenylacetylene (50 mg, 0.42 mmol) in 2.0 mL EtOAc at room temperature was added triethylamine (0.13 mL, 0.9 mmol), dichlorobis(triphenylphosphine)palladium(II) (21 mg, 0.03 mmol), and copper(I) iodide (6 mg, 0.03 mmol). The reaction was stirred at 70° C. for 3.3 hours. Additional 3-hydroxyphenylacetylene was added (50 mg, 0.42 mmol) and then again at 5.3 hours (75 mg, 0.63 mmol). The reaction was cooled to room temperature, and after 23 hours additional dichlorobis(triphenylphosphine)palladium(II) (20 mg, 0.03 mmol) was added. The reaction was heated to 60° C. and 3-hydroxyphenylacetylene (120 mg, 1.0 mmol) in 0.7 mL EtOAc (degassed) added dropwise over 7 minutes. The heat was removed after 1 hour and the reaction stirred an additional 22 hours at room temperature. The reaction was dissolved in EtOAc and washed with H2O. The EtOAc layer was extracted with 2% aqueous HCl. The combined acidic aqueous layers were washed with 30% EtOAc/hexane and then made basic with Na2CO3. The basic aqueous layer was extracted with EtOAc. Then the combined organic layers washed with brine, dried with anhydrous Na2SO4 and concentrated. The yellow oil was purified by chromatography (silica gel, CHCl3/EtOAc) to give the title compound as a white solid (5 mg, 4%).

reactant | (S)-2-amino-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.3 mmol, 106 mg | NC1=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C=C(C=N1)Br | C13H12BrN3O2S
reactant | 3-hydroxyphenylacetylene | 0.42 mmol, 50 mg | OC=1C=C(C=CC1)C#C | C8H6O
reactant | triethylamine | 0.9 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxyphenylacetylene | 1.0 mmol, 120 mg | OC=1C=C(C=CC1)C#C | C8H6O
solvent | EtOAc | 2.0 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 0.7 mL | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.03 mmol, 21 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.03 mmol, 6 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.03 mmol, 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-2-amino-5-[(3-hydroxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 5 mg, 4% | NC1=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C=C(C=N1)C#CC1=CC(=CC=C1)O | C21H17N3O3S
